US07230007B2
9 g (76.3 mmol) of 1H-pyrrolo[2,3-b]pyridine were added with stirring to 100 cm3 of dimethylformamide under an argon atmosphere at a temperature in the region of 20° C., and 2.7 g of 75% sodium hydride (84 mmol) were gradually added. After stirring at a temperature in the region of 20° C. for 10 minutes, a solution of 12.5 g (76.4 mmol) of 4-chloroquinoline in 100 cm3 of dimethylformamide was added and then the reaction mixture was heated at a temperature in the region of 100° C. for 15 h. After concentrating to dryness under reduced pressure (2.7 kPa), the residue was taken up in 300 cm3 of water. A first precipitate formed and then a second, which were filtered off. The 2 batches were combined and dissolved in 300 cm3 of dichloromethane. After separating by settling, the organic phase was dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa). The residue was purified by flash chromatography on a column of silica gel (0.04–0.06 mm), elution being carried out with a cyclohexane/ethyl acetate (50/50 by volume) mixture. The fractions comprising the expected product were combined and then concentrated to dryness under reduced pressure (2.7 kPa). 6.6 g of 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine were thus obtained in the form of a white solid. Mass spectrum: EI: m/z=245 M+; base peak m/z=244 (M−H)+.

reactant | 1H-pyrrolo[2,3-b]pyridine | 76.3 mmol, 9 g | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | sodium hydride | 84 mmol, 2.7 g | [H-].[Na+]
reactant | 4-chloroquinoline | 76.4 mmol, 12.5 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
solvent | dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
product | 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 6.6 g | N1=CC=C(C2=CC=CC=C12)N1C=CC=2C1=NC=CC2 | C16H11N3
